US08957077B2
Pyrazolo[1,5-a]pyrimidine-5,7-diol (J1)
Intermediates J1 and J2 were prepared essentially according to the procedure described in US Patent Publication No.: US 2006/0041131 A1. Sodium metal (6.64 g, 289 mmol) was added to EtOH (450 mL) and stirred for 40 min until all was dissolved. Next, ethyl acrylate (24.12 ml, 159 mmol) and 3-aminopyrazole (12.00 g, 144 mmol) were added, and the reaction mixture was heated to reflux for 3 h. The reaction mixture was cooled to room temperature, filtered, and the collected solids rinsed with excess EtOH. The isolated solids were dissolved in water (˜300 mL), which was cooled with and ice water bath. The aqueous mixture was acidified to pH=1-2 with concentrated HCl. The resulting precipitate was filtered and rinsed with excess water. The isolated solid was dried in a vacuum oven at 30° C. over the weekend to afford the title compound (J1) as an off-white solid (13.5 g, 62%). LRMS m/z (M+H+H2O) 170.1 found, 152.0 required.

reactant | Sodium | 289 mmol, 6.64 g | [Na] | Na
reactant | ethyl acrylate | 159 mmol, 24.12 ml | C(C=C)(=O)OCC | C5H8O2
reactant | 3-aminopyrazole | 144 mmol, 12.00 g | NC1=NNC=C1 | C3H5N3
reactant | EtOH | 450 mL | CCO | C2H6O
product | Pyrazolo[1,5-a]pyrimidine-5,7-diol | 13.5 g, 62% | N1=CC=C2N1C(=CC(=N2)O)O | C6H5N3O2
